US07067529B2
The mixture of 1-(3-Ethoxy-benzoyl)-6,7-dimethoxy-isoquinoline-4-carbonitrile (50 mg, 140 mmol), sodium azide (20 mg, 310 mmol) and ammonium chloride (16.2 mg, 310 mmol) in DMF (2 mL) was stirred at 120° C. for 24 h. After removal of solvent, the crude product was purified directly by HPLC (Reverse C18, 10%-90% acetonitrile in water in 10 min) afforded our desired product [6,7-Dimethoxy-4-(1H-tetrazol-5-yl)-isoquinolin-1-yl]-(3-ethoxy-phenyl)-methanone with trifluoro-acetic (31 mg, 55%) as a light yellow solid. LC/MS m/e calcd for C21H19N5O4 (MH+) 406, found 406.

reactant | 1-(3-Ethoxy-benzoyl)-6,7-dimethoxy-isoquinoline-4-carbonitrile | 140 mmol, 50 mg | C(C)OC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OC)C#N)C=CC1 | C21H18N2O4
reactant | sodium azide | 310 mmol, 20 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 310 mmol, 16.2 mg | [Cl-].[NH4+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | [6,7-Dimethoxy-4-(1H-tetrazol-5-yl)-isoquinolin-1-yl]-(3-ethoxy-phenyl)-methanone | COC=1C=C2C(=CN=C(C2=CC1OC)C(=O)C1=CC(=CC=C1)OCC)C1=NN=NN1 | C21H19N5O4
